US06777559B2
An autoclave was charged under an argon flow with 1.066 g of acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester (3.0 mmol, oil, crude quality), 0.57 ml of acetic anhydride (6.0 mmol), 0.92 ml of triethylamine (6.6 mmol) and 2.5 ml of a catalyst solution prepared from 6.73 mg of palladium acetate (0.030 mmol) and 78.7 mg of triphenylphosphine (0.30 mmol) in 25 ml of toluene. Then the autoclave was sealed, pressurized three times with 20 bar of carbon monoxide and vented, and finally pressurized with 50 bar of carbon monoxide. The reaction mixture was stirred magnetically and heated at 90° C. for 20 h. After cooling and venting the autocave, the dark reaction mixture was poured onto ice water and the biphasic solution stirred vigorously for 1 h. The aqueous phase was extracted with 20 ml of toluene, whereas the toluene phase was extracted in a separatory funnel with 10 ml of water and 10 ml of brine. The combined toluene phases were dried on sodium sulfate and finally rotary evaporated (47° C., 10 mbar). The resulting brown residue was purified by chromatography on silica gel (eluent: cyclohexane/tbutyl methyl ether 2:1 vol/vol) to afford 960 mg (88%) of acetic acid 9-benzenesulfonyl-9H-carbazol-4-yl ester as a light brown oil.

reactant | acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester | 1.066 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)OC(C)=O | C19H17NO4S
reactant | acetic anhydride | 6.0 mmol, 0.57 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 6.6 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.30 mmol, 78.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.030 mmol, 6.73 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | acetic acid 9-benzenesulfonyl-9H-carbazol-4-yl ester | 960 mg, 88% | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)OC(C)=O | C20H15NO4S
